US07732435B2
3-(4-Chlorophenyl)-2-isopropyl-9-methyl-7H-pyrano[2,3-e]indol-4-one
A stirred suspension of 3-(4-chlorophenyl)-2-isopropyl-9-methyl-4-oxo-4H-pyrano[2,3-e]indole-7-carboxylic acid benzyl ester and its positional isomer (0.063 g, 0.13 mmol) and 20% Pd on activated carbon (0.013 g) in tetrahydrofuran (1.5 ml), ethanol (1.5 ml) and 5M HCl solution (0.75 ml) is stirred under a hydrogen atmosphere for 3.5 h at room temperature. The catalyst is removed by filtration through Celite filter aid, and the pad of Celite is washed with ethyl acetate and methylene chloride. The combined filtrates are evaporated in vacuo, and the residue is purified by flash chromatography (cyclohexane/ethyl acetate=9:1 to 5:1) to afford the title compound as a pale orange solid.

reactant | 3-(4-chlorophenyl)-2-isopropyl-9-methyl-4-oxo-4H-pyrano[2,3-e]indole-7-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1C=C(C2=C3C(=CC=C12)C(C(=C(O3)C(C)C)C3=CC=C(C=C3)Cl)=O)C | C29H24ClNO4
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
solvent | HCl | 5M, 0.75 ml | Cl | ClH
catalyst | Pd on activated carbon | 0.013 g | [Pd] | Pd
product | 3-(4-Chlorophenyl)-2-isopropyl-9-methyl-7H-pyrano[2,3-e]indol-4-one | ClC1=CC=C(C=C1)C=1C(C=2C(=C3C(=CNC3=CC2)C)OC1C(C)C)=O | C21H18ClNO2
